### PR TITLE
[Merged by Bors] - feat: porting norm_num extensions for `Nat.gcd`, `Nat.lcm`, `Int.gcd`, `Int.lcm`, and `IsCoprime`

### LINKED ISSUE #3246: Port gcd support to norm_num
There's some commented-out code in `Data/Int/GCD.lean`

### PR DESCRIPTION
**Pull request by kmill**
This completes the porting of these norm_num extensions while adding a new extension for `IsCoprime` over `Int`. It also adds the norm_num extension testing file from mathlib3. Closes #3246.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by kmill** [comment]
@digama0 I figure I'll ping you about these ported norm_num extensions (and feel free to take over if I've done it all wrong).

Notes:
- I simplified the `Nat.coprime` extension. It used to be a recap of the `Nat.gcd` implementation, and it seemed easier to calculate whether the GCD was 1 or not, which I think only increases the proof term by a constant amount.
- The extensions are generally split into three, for example `proveNatCoprime'`, `proveNatCoprime`, and `evalNatCoprime`. I found that `match` generalization worked better and led to better-checked Qq types when there were actual natural number arguments, hence the split with the primed version.
- I deleted helper lemmas that were no longer needed and gave them `#noalign`. If any of them are wanted, see the "delete unused helper lemmas" commit.

File: Mathlib/Data/Int/GCD.lean [hunk 1]
```diff
@@ -511,255 +513,269 @@ theorem pow_gcd_eq_one {M : Type _} [Monoid M] (x : M) {m n : ℕ} (hm : x ^ m =
...
+theorem isInt_gcd : {x y nx ny : ℤ} → {z : ℕ} →
+    IsInt x nx → IsInt y ny → Int.gcd nx ny = z → IsNat (Int.gcd x y) z
+  | _, _, _, _, _, ⟨rfl⟩, ⟨rfl⟩, rfl => ⟨rfl⟩
+
+theorem isInt_lcm : {x y nx ny : ℤ} → {z : ℕ} →
+    IsInt x nx → IsInt y ny → Int.lcm nx ny = z → IsNat (Int.lcm x y) z
+  | _, _, _, _, _, ⟨rfl⟩, ⟨rfl⟩, rfl => ⟨rfl⟩
+
+/-- Supporting definition for `proveNatGCD`. Returns the GCD and an equality proof. -/
+def proveNatGCD' (x y : ℕ) : MetaM ((d : ℕ) × Q(Nat.gcd $x $y = $d)) := do
```
Comment (digama0) [inline Mathlib/Data/Int/GCD.lean:609]: why `MetaM`?

Comment (kmill) [reply Mathlib/Data/Int/GCD.lean]: Ha, didn't notice that was unnecessary. Thanks

**Comment by Ruben-VandeVelde** [comment]
Can you check if this can replace `nat_gcd_helper_1` in `Mathlib/GroupTheory/Perm/Cycle/Type.lean`?

**Comment by kmill** [comment]
@Ruben-VandeVelde Thanks, I cleaned that up.

File: Mathlib/Data/Int/GCD.lean [hunk 2]
```diff
@@ -511,255 +513,270 @@ theorem pow_gcd_eq_one {M : Type _} [Monoid M] (x : M) {m n : ℕ} (hm : x ^ m =
...
+  let .app (.app _ (x : Q(ℕ))) (y : Q(ℕ)) ← Meta.whnfR e | failure
+  let sℕ : Q(AddMonoidWithOne ℕ) := q(instAddMonoidWithOneNat)
+  let ⟨nx, p⟩ ← deriveNat x sℕ
+  let ⟨ny, q⟩ ← deriveNat y sℕ
+  let ⟨cd, pf⟩ ← proveNatGCD nx ny
+  let pf' : Q(IsNat (Nat.gcd $x $y) $cd) := q(isNat_gcd $p $q $pf)
+  return .isNat sℕ cd pf'
+
+/-- Supporting definition for `proveNatLCM`. Returns the LCM and an equality proof. -/
+def proveNatLCM' (x y : ℕ) : ((d : ℕ) × Q(Nat.lcm $x $y = $d)) :=
```
Comment (digama0) [inline Mathlib/Data/Int/GCD.lean:663]:
```suggestion
def proveNatLCM' (x y : Q(ℕ)) : ((d : ℕ) × Q(Nat.lcm $x $y = $d)) :=
```
You should retain the original natLit expressions, so that they can be embedded in the generated expressions without having to recompute the hash and breaking pointer equality for those subterms. I think you should never need to use `natLit?`: either you know that the input expr is a natlit in which case you can use `.natLit!`, or you don't and you want to use `deriveNat x` instead.

File: Mathlib/Data/Int/GCD.lean [hunk 3]
```diff
@@ -511,255 +513,270 @@ theorem pow_gcd_eq_one {M : Type _} [Monoid M] (x : M) {m n : ℕ} (hm : x ^ m =
...
+  | x, y =>
+    let ⟨d, pd⟩ := proveNatGCD' x y
+    have p0 : Q(Nat.blt 0 $d = true) := (q(Eq.refl true) : Expr)
+    have n : ℕ := x * y
+    have pxy : Q(Nat.mul $x $y = $n) := (q(Eq.refl $n) : Expr)
+    have m : ℕ := x * y / d
+    have pm : Q(Nat.mul $d $m = $n) := (q(Eq.refl $n) : Expr)
+    ⟨m, q(nat_lcm_helper $x $y $d $m $n $pd (Eq.mp Nat.blt_eq $p0) $pxy $pm)⟩
+
+/-- Given natural number literals `nx` and `ny`, return their GCD as a natural number literal
```
Comment (Parcly-Taxel) [inline Mathlib/Data/Int/GCD.lean:678]:
```suggestion
/-- Given natural number literals `nx` and `ny`, return their LCM as a natural number literal
```

File: Mathlib/Data/Int/GCD.lean [hunk 4]
```diff
@@ -511,255 +513,270 @@ theorem pow_gcd_eq_one {M : Type _} [Monoid M] (x : M) {m n : ℕ} (hm : x ^ m =
...
+  let sℕ : Q(AddMonoidWithOne ℕ) := q(instAddMonoidWithOneNat)
+  let sℤ : Q(Ring ℤ) := q(Int.instRingInt)
+  let ⟨cx, nx, p⟩ ← (← derive x).toInt
+  let ⟨cy, ny, q⟩ ← (← derive y).toInt
+  let ⟨cd, pf⟩ := proveIntGCD' cx cy
+  have pf : Q(Int.gcd $nx $ny = $cd) := pf
+  have pf' : Q(IsNat (Int.gcd $x $y) $cd) := q(isInt_gcd $p $q $pf)
+  return .isNat sℕ (mkRawNatLit cd) pf'
+
+/-- Given two integers numbers, return their LCM and an equality proof. -/
```
Comment (Parcly-Taxel) [inline Mathlib/Data/Int/GCD.lean:754]:
```suggestion
/-- Given two integers, return their LCM and an equality proof. -/
```

File: Mathlib/Data/Int/GCD.lean (hunk 2 above)
Comment (kmill) [reply Mathlib/Data/Int/GCD.lean]: It's now sharing as much as possible, except for some 0's and 1's here and there.

I originally used `natLit?` because partial functions that use `panic!` make me a little uncomfortable, but I switched it over to use `natLit!` anyway.

File: Mathlib/Data/Int/GCD.lean [hunk 5]
```diff
@@ -511,255 +513,265 @@ theorem pow_gcd_eq_one {M : Type _} [Monoid M] (x : M) {m n : ℕ} (hm : x ^ m =
...
---     let zc ← mk_instance_cache q(ℤ)
---     let nc ← mk_instance_cache q(ℕ)
---     (Prod.snd ∘ Prod.snd) <$> prove_lcm_int zc nc ex ey
---   | _ => failed
--- #align tactic.norm_num.eval_gcd tactic.norm_num.eval_gcd
-
--- end NormNum
-
--- end Tactic
+namespace Tactic
```
Comment (digama0) [inline Mathlib/Data/Int/GCD.lean:516]: I think we should move this to `Mathlib.Tactic.NormNum.GCD`, interleaving it with the math was probably not a good idea.

Comment (kmill) [reply Mathlib/Data/Int/GCD.lean]: Moved

File: Mathlib/Data/Int/GCD.lean [hunk 6]
```diff
@@ -9,10 +9,10 @@ Authors: Sangwoo Jo (aka Jason), Guy Leroy, Johannes Hölzl, Mario Carneiro
 ! if you have ported upstream changes.
 -/
 import Mathlib.Data.Nat.GCD.Basic
+import Mathlib.Algebra.GroupPower.Lemmas
```
Comment (fpvandoorn) [inline Mathlib/Data/Int/GCD.lean:12]: was this intentional?

Comment (kmill) [reply Mathlib/Data/Int/GCD.lean:12]: Yes, `Mathlib.Tactic.NormNum` used to import this, and it's the source of [`Int.natAbs_pow` and `isUnit_ofPowEqOne`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/GroupPower/Lemmas.html#Int.natAbs_pow)

**Comment by digama0** [comment]
I removed the `#align`s since we do not align tactic files (and the theorems in these files are not stable for direct use in mathlib in the first place).

bors r+

**Comment by kmill** [comment]
@digama0 Those `Nat.beq`'s were intentional to keep intermediate calculations out of proof terms -- I thought it was kind of neat how passing `Eq.refl true` was enough to get the kernel to compute everything. If you don't think that's important then I suppose that's fine with me.

**Comment by digama0** [comment]
The intermediate calculations are not in the proof term, I'm not sure what you mean. The proof term contains an occurrence of e.g. `13 * 42`, but not the result of that evaluation. This approach still requires the kernel to prove the equality, but it does so as a defeq between two nats which have normalized to the same thing instead of an extra beq computation.

**Comment by kmill** [comment]
@digama0 Really, I just thought it was neat having the proof terms look like
```
Tactic.NormNum.nat_lcm_helper 2 3 1 6
  (Tactic.NormNum.nat_gcd_helper_1' 2 3 1 1 (Eq.refl true))
  (Eq.refl false) (Eq.refl true)
```
without needing to feed in the LHS or RHS in the `Eq.refl` constructor -- it also avoids some code duplication. I liked how it makes it obvious what the kernel is going to compute, and I figured having the kernel do an extra `Nat.beq` is negligible.

I think my main objection is the commit message classifying changing `Nat.beq x y = true` to `x = y` to be "cleanup." They're different designs optimizing for different sets of things, but to be clear I'm fine with the change.

Thanks for mentioning the `if ...` pattern -- I was wondering about whether there was a way to avoid passing in these proof terms.
